US04112096
2-(Hydroxymethyl)-6-(p-methoxybenzyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
210 g of p-methoxybenzyl bromide and 40 g of potassium iodide are added to 114 g of 2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one and 276 g of potassium carbonate in 2 l. of methanol. After refluxing for 5 hours, the reaction is cooled, poured into 6 l. of water and the title compound is filtered off and dried.

reactant | p-methoxybenzyl bromide | 210 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | potassium iodide | 40 g | [I-].[K+]
reactant | 2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 114 g | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C11H9N3O2
reactant | potassium carbonate | 276 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 2-(Hydroxymethyl)-6-(p-methoxybenzyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | OCC1=NN2C(N(C=3C=CC=CC3C2=C1)CC1=CC=C(C=C1)OC)=O | C19H17N3O3
